US09062028B2
Step C. 8-Bromo-3,4-dihydro-2H-benzo[b][1,4]thiazine
The title compound was prepared using a procedure analogous to bromo-1a,2,3,7b-tetrahydro-1H-cyclopropa[c]quinoline except that 7-bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one was replaced with 8-bromo-2H-benzo[b][1,4]thiazin-3(4H)-one. LCMS, [M+H]+=231.9. 1H NMR (400 MHz, MeOD) δ 6.86-6.80 (m, 1H), 6.73 (t, J=7.9 Hz, 1H), 6.52 (dd, J=8.1, 1.3 Hz, 1H), 3.56-3.49 (m, 2H), 3.09-3.01 (m, 2H).

reactant | bromo-1a,2,3,7b-tetrahydro-1H-cyclopropa[c]quinoline | BrC1C2CNC=3C=CC=CC3C21 | C10H10BrN
reactant | 7-bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one | BrC=1C=2C3C(C(NC2C=CC1)=O)C3 | C10H8BrNO
reactant | 8-bromo-2H-benzo[b][1,4]thiazin-3(4H)-one | BrC1=CC=CC2=C1SCC(N2)=O | C8H6BrNOS
product | 8-Bromo-3,4-dihydro-2H-benzo[b][1,4]thiazine | BrC1=CC=CC2=C1SCCN2 | C8H8BrNS
